US03996230
In the manner given in Example 1, 1,8-dibromo-10-methyl-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine is heated with 1-methylpiperazine to give 8-bromo-10-methyl-1-(4-methylpiperazino)-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 1,8-dibromo-10-methyl-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC1=NN=C2N1C1=C(C(=NC2)C2=NC=CC=C2)C=C(C=C1C)Br | C16H11Br2N5
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 8-bromo-10-methyl-1-(4-methylpiperazino)-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC=1C=C(C2=C(C(=NCC=3N2C(=NN3)N3CCN(CC3)C)C3=NC=CC=C3)C1)C | C21H22BrN7
